US07202363B2
2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]cyclopropanecarboxylic acid
Ethyl 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]cyclopropanecarboxylate (433 mg, 0.8018 mmol) in methanol (2 mL) and 2M sodium hydroxide (1.604 mL, 3.207 mmol) was stirred for 23 hours at 50° C., cooled to room temperature, and acidified to a pH of 4 with 1M hydrochloric acid. Solids were filtered off and washed with water. The material was purified by HPLC preparative to furnish the title compound as a white solid (61 mg 0.119 mmol): LCMS (Conditions a): MH+=513 Rt =2.22 minutes; 1H NMR (DMSO-d6, 400 MHz) 9.51 (1H), 7.99 (1H), 7.71 (2H), 7.57 (2H), 7.34 (2H), 7.19 (1H), 7.15 (1H), 7.07 (1H), 5.46 (1H), 4.04 (3H), 3.91 (3H), 2.39 (1H), 1.73 (1H), 1.46 (1H), 1.39

reactant | Ethyl 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]cyclopropanecarboxylate | 0.8018 mmol, 433 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2C(C2)C(=O)OCC | C30H28N4O4S
reactant | sodium hydroxide | 3.207 mmol, 2M, 1.604 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]cyclopropanecarboxylic acid | 0.119 mmol, 61 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2C(C2)C(=O)O | C28H24N4O4S
